US07582773B2
Step 6: Synthesis of 1,3-Dibenzyl-2-methyl-5-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole.
The desired product was prepared using a procedure similar to step 6 of example 3. Thus, [4-(1,3-dibenzyl-2-methyl-1H-indol-5-yl)-phenoxy]-acetonitrile (0.160 g, 0.362 mmol) was reacted with NaN3 (0.118 g, 1.808 mmol) and NH4Cl (0.097 g, 1.808 mmol) in DMF (5 ml) to give the product (0.136 g, 0.280 mmol, 77%) as a white solid, mp 190-192° C. 1H NMR (DMSO-d6) δ 2.35 (s, 3H), 4.10 (s, 2H), 5.43 (s, 2H), 5.49 (s, 2H), 6.99 (d, J=7.0 Hz, 2H), 7.09-7.13 (m, 3H), 7.20-7.30 (m, 8H), 7.40 (d, J=8.4 Hz, 1H), 7.54 (d, J=8.9 Hz, 2H), 7.60 (d, J=1.7 Hz, 1H); IR (solid) 3030, 2905, 2850, 1605, 1520, 1480, 1440, 1360, 1270, and 1250 cm−1; [ESI(−)], m/z 484 (M−H)−; Anal. Calcd. for C31H27N5O: C, 76.88; H, 5.60; N, 14.42; Found: C, 76.71; H, 5.57; N, 14.37.

reactant | [4-(1,3-dibenzyl-2-methyl-1H-indol-5-yl)-phenoxy]-acetonitrile | 0.362 mmol, 0.160 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(OCC#N)C=C1)CC1=CC=CC=C1)C | C31H26N2O
reactant | NaN3 | 1.808 mmol, 0.118 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 1.808 mmol, 0.097 g | [NH4+].[Cl-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1,3-Dibenzyl-2-methyl-5-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OCC1=NN=NN1)CC1=CC=CC=C1)C | C31H27N5O
